US04112096
2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
500 mg (0.0019 mole) of 5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester, prepared as described in Example 2A, is suspended in 10 ml distilled tetrahydrofuran and treated with 99.6 mg (0.0039 mole or 2 equivalents) of 85% lithium borohydride at room temperature. The mixture is stirred overnight (~20 hours), cooled down to 0° C., treated with 4.5 ml of 1.0 N hydrochloric acid and stirred for 30 minutes. The mixture is then diluted with water (25 ml), stirred for 10 minutes and filtered. The white precipitates are dried in a vacuum oven at ~70° for 1.5 hours to give 344 mg of title compound, m.p. 289°-290°; 84% yield. An additional 31.3 mg is obtained from the filtrate on addition of an equal volume of methylene chloride.

reactant | 5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester | 0.0019 mole, 500 mg | O=C1NC=2C=CC=CC2C=2N1N=C(C2)C(=O)OCC | C13H11N3O3
reactant | lithium borohydride | 0.0039 mole, 99.6 mg, 2 equivalents | [BH4-].[Li+]
reactant | hydrochloric acid | 1.0 N, 4.5 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 344 mg, 84% yield | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
